Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Back pain and imaging findings concerning for osteomyelitis. 
 
Major Surgical or Invasive Procedure:
Bone Biopsy, lumbar spine (core biopsy of L5 vertebra)

 
History of Present Illness:
___ with hx HTN, microdisectomy x2 presenting with back pain 
and MRI concerning for osteomyelitis and epidural abscess. He 
has had microdiscectomy at ___ of L5-S1, 14 
months ago and ___ years ago. On ___ he started 
experiencing a twinge in his back. This has progressed to L5 
pain that radiates around bilaterally to his groin. He denies 
any fevers or chills, weakness, bowel or bladder changes were 
baseline pain. He notes he only has pain when he moves. 7 weeks 
ago and MRI which was concerning for osteomyelitis although he 
is cleared by his PCP as well as spine surgeon. Today he had a 
repeat MRI which was concerning for osteomyelitis and epidural 
abscess, so he was transferred to ___ for urgent spine 
consultation.  
 In the ED, initial vitals: 98.4 80 131/85 18 99% RA  
 - Exam notable for: "neuro intact"  
 - Labs notable for: WBC 10.2, CRP 0.9 (at ___), CBC wnl, coags 
wnl, chem 7 wnl, lactate 0.8, UA wnl.  
 - Imaging notable for:  
 - Seen by spine who recommended no antibiotics as will need ___ 
guided biopsy before antibiotics start  
 - Patient given: Acetaminophen 1g, omeprazole 40 mg.  
 - Vitals prior to transfer: 98.0 62 118/83 18 100% RA  
 On arrival to the floor, pt reports feeling persistent lumbar 
back discomfort which has been stable over the last 7 weeks. He 
reports that he has not noticed any f/c, new weakness in his 
legs, anesthesia, urinary or fecal incontinence. He denies any 
IVDU in his life. Reports that he had prostatitis a few months 
ago which his PCP told him might have seeded his back.  

 
Past Medical History:
- right L5-S1 micro discectomy x 2 (first operation ___ then 
again ___  
 - HTN  
 - HLD  
 - s/p hernia repair  
 - h/o prostatis s/p laser treatment  
 

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
 Vitals: 97.7 PO 146 / 87 68 18 98 ra  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, 
JVP not elevated, no LAD  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
 Ext: Warm, well perfused, no cyanosis or edema  
 Skin: Without rashes or lesions  
 Neuro: A&Ox3. Grossly intact. Slightly TTP over lumbar spine. 
Neurologically intact b/l ___. Normal strength, sensation, no 
lumbar area numbness. no obvious areas of fluctuance or 
cellulitis around lumbar spine, previous incision/ scars.  

DISCHARGE PHYSICAL EXAM
============================
Vitals: 98.2PO 127 / 83 79 20 96% RA    
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly 
Back: Scar noted on lumbar spine.  No tenderness on palpation.
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: No rashes 
Neuro:  ___ strength, sensation intact

 
Pertinent Results:
___ 11:45PM   CRP-0.7
___ 11:58PM   LACTATE-0.8
___ 11:45PM   WBC-7.3 RBC-4.21* HGB-12.8* HCT-37.4* MCV-89 
MCH-30.4 MCHC-34.2 RDW-14.1 RDWSD-45.3
___ 11:45PM   NEUTS-60.4 ___ MONOS-10.9 EOS-3.0 
BASOS-0.3 IM ___ AbsNeut-4.43 AbsLymp-1.86 AbsMono-0.80 
AbsEos-0.22 AbsBaso-0.02
___ 11:45PM   GLUCOSE-108* UREA N-23* CREAT-0.9 SODIUM-138 
POTASSIUM-3.7 CHLORIDE-103 TOTAL CO2-24 ANION GAP-15
___ 05:25AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG

MRI (OSH)
With findings concerning for L5-S1 osteomyelitis with small 
epidural collection

CT interventional procedure ___
FINDINGS: 
  
1. L5-S1 severe degenerative changes 
  
IMPRESSION:  
  
Technically successful 13G core biopsy of L5 vertebral body. 

Micro:
___ 2:17 pm TISSUE      Source: L5 vertebral body. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Preliminary): 

   ANAEROBIC CULTURE (Preliminary): 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   ACID FAST SMEAR (Preliminary): 

   ACID FAST CULTURE (Preliminary): 

 
Brief Hospital Course:
Mr. ___ is a ___ with hx HTN, microdisectomy x2 presenting 
with for stable chronic back pain and MRI concerning for 
osteomyelitis and epidural abscess. Seen by NSGY in the ED, who 
based on well clinical appearance and lack of neurological 
deficits did not recommend urgent operative management. 
Clinically, he did not look infected. With only mild point 
tenderness over his lumbar spine. He did not have fevers, 
leukocytosis, or elevated inflammatory markers. However, given 
the imaging, it was thought wise to completely exonerate 
infection with a biopsy. Because of his clinical appearance and 
want to increase yield of biopsy, he was not given antibiotics. 
This was done by ___ and after initial gram stain was 
unrevealing, we discharged the patient with solid contact 
information and a plan to call for emergent readmission should 
an unexpected positive result come back. He was restarted on all 
his home medications, including aspirin. He wills schedule an 
appointment with his PCP ___ 1 week from discharge, and final 
biopsy results will be faxed to his office.

TRANSITIONAL ISSUES
====================
[] Bone biopsy culture results were pending at discharge. Gram 
stain returned negative. Final results will be called into the 
patient and called/faxed to patients PCP ___.
[] Patient should avoid soaking biopsy sight in water for 
significant period of time until ___.
[] Patient will make an appointment to see his PCP ___ 1 week. 
[] Epidural fluid collection was not drained by ___ due to small 
size. Suspect changes in spine and fluid collection are related 
to patients steroid injections.

 # CODE STATUS: Presumed Full  
 # CONTACT: Wife ___  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Rosuvastatin Calcium 20 mg PO QPM 
3. amLODIPine 10 mg PO DAILY 
4. Zegerid (omeprazole-sodium bicarbonate) 40-1.1 mg-gram oral 
BID 
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Finasteride 5 mg PO DAILY  
4.  Rosuvastatin Calcium 20 mg PO QPM  
5.  Zegerid (omeprazole-sodium bicarbonate) 40-1.1 mg-gram oral 
BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chronic low back pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital due to concerning findings on 
your recent MRI. The images looked very suspicious for 
infection. So suspicious, in fact, that our neurosurgeons were 
called to evaluate you in the emergency department. After seeing 
you, they were less concerned, and decided that you could be 
admitted in order to get a biopsy of your spine. This biopsy of 
your spine was to answer the question of whether you really had 
an infection, or not. Your appearance, blood work, and initial 
results of the biopsy are telling us that an infection is not 
likely. For this reason, you were discharged from the hospital 
before the final results of the biopsy were known. This was done 
with the understanding that if biopsy does show infection, we 
will call you, and you will have to come back to the hospital 
immediately for treatment with IV antibiotics.

It was a pleasure taking care of you.
Sincerely,
Your ___ Team.
 
Followup Instructions:
___